US07872022B2
(−)-[(3S,4R)-3-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidin-1-yl]-acetonitrile
A mixture of (−)-(3S,4R)-3-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidine (150 mg, 0.345 mmol), bromoacetonitrile (45 mg, 0.37 mmol) and potassium carbonate (95 mg, 0.69 mmol) in 4 ml of acetonitrile was stirred at room temperature over night. Quenching with water was followed by extraction with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 163 mg (99.7%) of the title compound as a white solid.

reactant | (−)-(3S,4R)-3-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidine | 0.345 mmol, 150 mg | FC(C=1C=C(COC[C@@H]2CNCC[C@H]2C2=CC=C(C=C2)F)C=C(C1)C(F)(F)F)(F)F | C21H20F7NO
reactant | bromoacetonitrile | 0.37 mmol, 45 mg | BrCC#N | C2H2BrN
reactant | potassium carbonate | 0.69 mmol, 95 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | (−)-[(3S,4R)-3-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidin-1-yl]-acetonitrile | 163 mg, 99.7% | FC(C=1C=C(COC[C@@H]2CN(CC[C@H]2C2=CC=C(C=C2)F)CC#N)C=C(C1)C(F)(F)F)(F)F | C23H21F7N2O
